US07696205B2
(±) (1S*,2R*,4R*)-N-[4-(Isopropyl-methyl-amino)-2-(4-methylsulfanyl-benzenesulfonylmethyl)-cyclohexyl]-2-(7-trifluoromethyl-benzooxazol-2-yl)-acetamide
(±)(1S*,2R*,4R*)-N4-Isopropyl-N4-methyl-2-(4-methylsulfanyl-benzenesulfonylmethyl)-cyclohexane-1,4-diamine TFA salt, from example (19 g), (65 mg) was dissolved in DMF (2 ml) prior to the addition of 4-methylmorpholine (74 μl) and example (22c) (39 mg). After cooling to 0° C., BOP reagent (77 mg) was added. The resulting mixture was warmed to rt and stirred overnight before being concentrated. Reverse phase HPLC purification (gradient elution, water/acetonitrile/TFA) of the resulting residue provided the title compound (28 mg). MS found: (M+H)+=598.5

reactant | (±)(1S*,2R*,4R*)-N4-Isopropyl-N4-methyl-2-(4-methylsulfanyl-benzenesulfonylmethyl)-cyclohexane-1,4-diamine TFA salt | OC(=O)C(F)(F)F.C(C)(C)N([C@H]1C[C@H]([C@H](CC1)N)CS(=O)(=O)C1=CC=C(C=C1)SC)C
reactant | 4-methylmorpholine | 74 μl | CN1CCOCC1 | C5H11NO
reactant | BOP reagent | 77 mg | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
product | (±) (1S*,2R*,4R*)-N-[4-(Isopropyl-methyl-amino)-2-(4-methylsulfanyl-benzenesulfonylmethyl)-cyclohexyl]-2-(7-trifluoromethyl-benzooxazol-2-yl)-acetamide | 28 mg | C(C)(C)N([C@H]1C[C@H]([C@H](CC1)NC(CC=1OC2=C(N1)C=CC=C2C(F)(F)F)=O)CS(=O)(=O)C2=CC=C(C=C2)SC)C | C28H34F3N3O4S2
